US05534515
Bb. 1-(4-Methoxybenzyl)-2-methyl-6,7-dihydropyrrolo[2,3-d]pyridazine-7-one
38.3 g (97 mmol) of 7-benzyloxy-4-chloro-1-(4-methoxybenzyl)-2-methylpyrrolo[2,3-d]pyridazine (contaminated with about 5% of the isomeric 4-benzyloxy compound), 15 ml of triethylamine and 3.0 g of palladium (5%)/carbon catalyst are hydrogenated with hydrogen for 10 h in 3 1 of methanol. Purification: crystallization from methanol. Yield: 69%, m.p.: 212°-213° C.

reactant | 7-benzyloxy-4-chloro-1-(4-methoxybenzyl)-2-methylpyrrolo[2,3-d]pyridazine | 97 mmol, 38.3 g | C(C1=CC=CC=C1)OC=1N=NC(=C2C1N(C(=C2)C)CC2=CC=C(C=C2)OC)Cl | C22H20ClN3O2
reactant | triethylamine | 15 ml | C(C)N(CC)CC | C6H15N
reactant | hydrogen | [H][H] | H2
catalyst | palladium | 3.0 g | [Pd] | Pd
solvent | methanol | CO | CH4O
product | 1-(4-Methoxybenzyl)-2-methyl-6,7-dihydropyrrolo[2,3-d]pyridazine-7-one | Yield: 69% | COC1=CC=C(CN2C(=CC3=C2C(NN=C3)=O)C)C=C1 | C15H15N3O2
